US05159061
(IV) Production of Boc-Asn-Ser(Bzl)-Phe-D-Arg(Tos)-Tyr(Bzl)-OBzl
Using 2.20 g Boc-Ser(Bzl)-Phe-D-Arg(Tos)-Tyr(Bzl)-OBzl, 0.61 g Boc- Asn-OH, 0.51 g HONB and 0.58 g DCC, the desired product was obtained in exactly the same manner as in Example 1-(IV).

reactant | Boc-Ser(Bzl)-Phe-D-Arg(Tos)-Tyr(Bzl)-OBzl | 2.20 g | N([C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C60H69N7O11S
reactant | Boc- Asn-OH | 0.61 g | CC(C)(C)OC(=O)N[C@@H](CC(=O)N)C(=O)O | C9H16N2O5
reactant | HONB | 0.51 g | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 0.58 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | Boc-Asn-Ser(Bzl)-Phe-D-Arg(Tos)-Tyr(Bzl)-OBzl | N([C@@H](CC(N)=O)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C64H75N9O13S
